US04052455
A suspension of N-(4-nitrostyrylsulfonyl)benzamide (14.9 g., 0.045 mole) in 500 ml. of dry benzene is refluxed and stirred with phosphorus pentachloride (10.4 g., 0.05 mole) for 8 hr. The reaction mixture after standing overnight at 25° C. provides 8.2 g. of solid, m.p. 158°-166° C. Concentration of the mother liquor to about 100 ml. provides an additional 2.5 g. of solid, m.p. 158°-161° C. The combined crude solid crystallized from ethyl acetate affords analytically pure N-(4-nitrostyrylsulfonyl)benzimidoyl chloride, m.p. 168°-175° C.

reactant | N-(4-nitrostyrylsulfonyl)benzamide | 0.045 mole, 14.9 g | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC=CC=C2)=O)C=C1 | C15H12N2O5S
reactant | phosphorus pentachloride | 0.05 mole, 10.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-nitrostyrylsulfonyl)benzimidoyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)N=C(C2=CC=CC=C2)Cl)C=C1 | C15H11ClN2O4S
